US04607041
2-Methoxyethyl 4-fluoro-3-oxobutanoate
Ethyl 4-fluoro-3-oxobutanoate (2.1 g) was heated at reflux in 2-methoxyethanol (10 ml) for 3 hours. The solvent was removed in vacuo and the residue distilled to give the title compound as a colourless oil (1.75 g). Nmr (CDCl3)δ4.9 (d,2H,J-48 Hz), 3.4 (s,3H).

reactant | Ethyl 4-fluoro-3-oxobutanoate | 2.1 g | FCC(CC(=O)OCC)=O | C6H9FO3
reactant | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 2-Methoxyethyl 4-fluoro-3-oxobutanoate | 1.75 g | FCC(CC(=O)OCCOC)=O | C7H11FO4
